US05830920
A solution of 30 g of benzyl 2-benzyloxycarbonylamino-2-desoxy-a-D-glucopyranoside (Heyns and Paulsen, Chem. Ber. 88, 188 (1955)) in 116 ml of pyridine was treated at 0° C. with a solution of 19.85 g of p-tolylsulfonyl chloride in 30 ml of dichloromethane and stirred at room temperature for 4 hours. Then, the mixture was poured into ice-cold 2N sulfuric acid and extracted with dichloromethane. The organic phases were washed with aqueous sodium hydrogen carbonate solution, dried over magnesium sulfate and concentrated. The residue was chromatographed over silica gel with hexane/ethyl acetate and gave benzyl 2-benzyloxycarbonylamino-2-desoxy-6-O-(p-tolylsulfonyl)-a-D-glucopyranoside, [a]+101.8° (c 0.5; dioxan), MS: m/z 580 ([M+Na]+).

reactant | benzyl 2-benzyloxycarbonylamino-2-desoxy-a-D-glucopyranoside | 30 g | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)CO | C21H25NO7
reactant | p-tolylsulfonyl chloride | 19.85 g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | pyridine | 116 ml | N1=CC=CC=C1 | C5H5N
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | benzyl 2-benzyloxycarbonylamino-2-desoxy-6-O-(p-tolylsulfonyl)-a-D-glucopyranoside | C(C1=CC=CC=C1)OC(=O)N[C@H]1[C@@H](OCC2=CC=CC=C2)O[C@@H]([C@H]([C@@H]1O)O)COS(=O)(=O)C1=CC=C(C=C1)C | C28H31NO9S
